US08754225B2
Step A: (2,2-Dimethoxyethyl)methylcarbamic Acid Benzyl Ester
K2CO3 (13.8 g, 100 mmol, 1.76 eq.) and H2O (46 mL) were mixed to form a homogeneous solution. The solution was cooled to 20° C. N-methylaminoacetaldehyde dimethylacetal (12.8 mL, 100 mmol, 1.8 eq) and MeTHF (50 mL) were added. The resulting mixture was cooled to 2° C. Benzyl chloroformate (8.1 mL, 56.7 mmol, 1.0 eq.) was added by syringe over 10 minutes (addition was exothermic). The mixture was maintained at room temperature until completion of the reaction. The layers were separated and the organic layer was washed with 1N HCl (50 mL) and used directly in the next step.

reactant | K2CO3 | 100 mmol, 13.8 g, 1.76 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methylaminoacetaldehyde dimethylacetal | 100 mmol, 12.8 mL, 1.8 eq | COC(CNC)OC | C5H13NO2
reactant | MeTHF | 50 mL | CC1CCCO1 | C5H10O
reactant | Benzyl chloroformate | 56.7 mmol, 8.1 mL, 1.0 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | H2O | 46 mL | O | H2O
product | (2,2-Dimethoxyethyl)methylcarbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(N(C)CC(OC)OC)=O | C13H19NO4
